US05622976
To a solution of 2-ethoxycarbonyl-5-(4-methylthiophenyl)-1,3,4-oxadiazole (0.7 g) in chloroform (14 ml), m-chloroperoxybenzoic acid (0.57 g) was added dropwise at 4°-6° C. with stirring. After 30 minutes, the reaction mixture was extracted with chloroform (50 ml), washed with a sodium iodide aqueous solution, a sodium thiosulfate aqueous solution, a sodium hydrogencarbonate aqueous solution and brine successively and dried over magnesium sulfate. After evaporating the solvent, the residue was crystallized from diethyl ether to afford 2-ethoxycarbonyl-5-(4-methylsulfinylphenyl)-1,3,4-oxadiazole.

reactant | 2-ethoxycarbonyl-5-(4-methylthiophenyl)-1,3,4-oxadiazole | 0.7 g | C(C)OC(=O)C=1OC(=NN1)C1=CC=C(C=C1)SC | C12H12N2O3S
reactant | m-chloroperoxybenzoic acid | 0.57 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 14 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxycarbonyl-5-(4-methylsulfinylphenyl)-1,3,4-oxadiazole | C(C)OC(=O)C=1OC(=NN1)C1=CC=C(C=C1)S(=O)C | C12H12N2O4S
